US07608629B2
N-[6-(1-Methyl-piperidin-4-yloxy)-pyridin-2-yl]-2,4,6-trifluoro-benzamide hydrogen chloride salt
Using a method similar to example 154, using 6-(1-methyl-piperidin-4-yloxy)-pyridin-2-ylamine (preparation 60, 200 mg, 0.965 mmol) and 2,4,6-trifluorobenzoyl chloride (150 μL, 1.16 mmol) yields of the title compound (341 mg, 88%). Mass spectrum (ion spray): m/z 365.8 (M+1); Analysis calculated for C18H19N3O2ClF3. Theory: C, 53.81; H, 4.76; N, 10.46. Found: C, 53.74; H, 5.03; N, 10.43. mp=264-6° C.

reactant | 6-(1-methyl-piperidin-4-yloxy)-pyridin-2-ylamine | 0.965 mmol, 200 mg | CN1CCC(CC1)OC1=CC=CC(=N1)N | C11H17N3O
reactant | 2,4,6-trifluorobenzoyl chloride | 1.16 mmol, 150 μL | FC1=C(C(=O)Cl)C(=CC(=C1)F)F | C7H2ClF3O
product | N-[6-(1-Methyl-piperidin-4-yloxy)-pyridin-2-yl]-2,4,6-trifluoro-benzamide hydrogen chloride salt | 341 mg, 88% | Cl.CN1CCC(CC1)OC1=CC=CC(=N1)NC(C1=C(C=C(C=C1F)F)F)=O | InChI=1S/C18H18F3N3O2.ClH/c1-24-7-5-12(6-8-24)26-16-4-2-3-15(22-16)23-18(25)17-13(20)9-11(19)10-14(17)21;/h2-4,9-10,12H,5-8H2,1H3,(H,22,23,25);1H
